US08183246B2
3-{[(1R,2R)-2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropyl]-oxy}propionic acid tert.-butyl ester
Add 157 mg (1.37 mmol) potassium tert.-butylate to a solution of 535 mg (1.37 mmol) (2R,3R)-3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}butan-2-ol in 5 ml THF. After stirring for 15 min at RT, add 1.0 ml (878 mg, 6.65 mmol) tert.-butyl acrylate. After three hours, add 10 ml water, and concentrate the reaction mixture by vacuum evaporation. Purify the residue by preparative RP-HPLC (gradient: water/acetonitrile). 346 mg (47% of theor.) of the desired product is obtained.

reactant | (2R,3R)-3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}butan-2-ol | 1.37 mmol, 535 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)O[C@@H]([C@@H](C)O)C)C2=CC=CC=C2 | C23H22N2O4
reactant | tert.-butyl acrylate | 6.65 mmol, 1.0 ml, 878 mg | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | water | 10 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-{[(1R,2R)-2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropyl]-oxy}propionic acid tert.-butyl ester | C(C)(C)(C)OC(CCO[C@@H]([C@@H](C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)C)=O | C30H34N2O6
